US07851473B2
Benzyl 4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazine-1-carboxylate
To a solution of N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate (200 mg, 0.555 mmol) and triethylamine (0.309 ml, 2.22 mmol) in tetrahydrofuran (4 ml) was added benzyl chloroformate (0.120 ml, 0.833 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to yield 152 mg (72.0%) of the desired product. mp 137-138° C.

reactant | N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate | 0.555 mmol, 200 mg | FC(C(=O)O)(F)F.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCNCC2
reactant | triethylamine | 2.22 mmol, 0.309 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.833 mmol, 0.120 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | Benzyl 4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazine-1-carboxylate | 152 mg, 72.0% | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C20H20N4O4
